US07786165B2
ethyl 3-(4-{(4-{4-[2-(ethylthio)ethoxy]-2,6-dimethylphenyl}-2,3-dihydro-1H-inden-1-yl)[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoate
To a solution of ethyl 3-(2-fluoro-4-{[4-(4-hydroxy-2,6-dimethylphenyl)-2,3-dihydro-1H-inden-1-yl][(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate (1.00 g, 1.58 mmol), 2-(ethylthio)ethanol (0.219 mg, 2.06 mmol) and tributylphosphine (0.417 mg, 2.06 mmol) in tetrahydrofuran (25 mL) was added 1,1′-(azodicarbonyl)dipiperidine (0.520 g, 2.06 mmol) under stirring at room temperature, and the mixture was stirred for 16 hr. The reaction mixture was diluted with diisopropyl ether, the insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (10%-80% ethyl acetate/hexane) to give the title compound (1.06 g, yield 93%) as a colorless oil.

reactant | ethyl 3-(2-fluoro-4-{[4-(4-hydroxy-2,6-dimethylphenyl)-2,3-dihydro-1H-inden-1-yl][(2-nitrophenyl)sulfonyl]amino}phenyl)propanoate | 1.58 mmol, 1.00 g | FC1=C(C=CC(=C1)N(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C1CCC2=C(C=CC=C12)C1=C(C=C(C=C1C)O)C)CCC(=O)OCC | C34H33FN2O7S
reactant | 2-(ethylthio)ethanol | 2.06 mmol, 0.219 mg | C(C)SCCO | C4H10OS
reactant | tributylphosphine | 2.06 mmol, 0.417 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 2.06 mmol, 0.520 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | ethyl 3-(4-{(4-{4-[2-(ethylthio)ethoxy]-2,6-dimethylphenyl}-2,3-dihydro-1H-inden-1-yl)[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoate | 1.06 g, yield 93% | C(C)SCCOC1=CC(=C(C(=C1)C)C1=C2CCC(C2=CC=C1)N(C1=CC(=C(C=C1)CCC(=O)OCC)F)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C | C38H41FN2O7S2
